US05174308
2-(2-Hydroxy-4-p-methoxyphenyl-3-buten-1-yl)-3,5,6-trimethylpyrazine
To a solution of lithium diisopropylamide (1.5 Molar, 73.3 mL, 0.11 mole) in 150 mL of tetrahydrofuran at -78° C. is added slowly a solution of tetramethylpyrazine (13.6 g, 0.1 mole) in 100 mL of tetrahydrofuran. The mixture is allowed to warm to room temperature and then cooled to -78° C. A solution of p-methoxycinnamaldehyde (17.8 g, 0.11 mole) in 100 mL of tetrahydrofuran is added dropwise over 15 minutes. The reaction product mixture is then worked up according to the procedures of Example I to provide the title compound.

reactant | lithium diisopropylamide | 0.11 mole, 1.5 Molar, 73.3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetramethylpyrazine | 0.1 mole, 13.6 g | CC1=C(N=C(C(=N1)C)C)C | C8H12N2
reactant | p-methoxycinnamaldehyde | 0.11 mole, 17.8 g | COC1=CC=C(C=CC=O)C=C1 | C10H10O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(2-Hydroxy-4-p-methoxyphenyl-3-buten-1-yl)-3,5,6-trimethylpyrazine | OC(CC1=NC(=C(N=C1C)C)C)C=CC1=CC=C(C=C1)OC | C18H22N2O2
